datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(CC)C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CC)/C(C)=C([H])\C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C([H])=C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H] 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])=C([H])C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])/C([H])=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)C 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(O)C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])C([H])C(O)C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CC)[H])[H].[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)[H])[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O:10][H].C[O+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([O]C)[O][H] 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)C.[O-:21]CCCCCC>>CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][S:10]C([H])C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[O]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][S:10][H].C[O+:21]=[C:20]([S][H])[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S][H])[O][H] 10=20;20,21=21"
"C[O+:10]([K])[C:21]([O-:20])(OC)OC>>[O:20]=[C:21](OC)OC.C[O:10][K] 20=21;21,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21]CC)[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC)[H].[O-:21]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C([H])[O]2.CC[S:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)C([H])C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"CN([C:20]([O-:10])(OCC)[O:21][H])CC>>CN([C:20](=[O:10])OCC)CC.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C.C1CC(=O)N(C1=O)O[C:20](=[O:21])[H]>>[H][NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)[H])C 10=20;20,21=21"
